2156-07-04 06:42:00 Physician Resident Progress Note
Chief Complaint: 72F presents with hypotension and junctional rhythm
   after being found unresponsive at the NH.  Ruled in for AMI.
   24 Hour Events:
   -Ruled in for an MI, cardiology consulted, no anticoagulation indicated
   given systemic anticoagulation from coagulopathy, recommended a full
   strength aspirin daily only
   -HCT bumped appropriately with transfusion
   -Potassium persistently low, hanging a second back of 20mEQ
   -Required 2 amps of D50 overnight for hypoglycemia
   -Currently levophed at 0.27mcg/kg/min
   Allergies:
   Aspirin
   Unknown;
   Aleve (Oral) (Naproxen Sodium)
   swelling of her
   Codeine
   Unknown;
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-7-3**] 02:30 PM
   Infusions:
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-7-3**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-7-3**] 04:00 PM
   Dextrose 50% - [**2156-7-4**] 03:13 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged
   Flowsheet Data as of  [**2156-7-4**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 80 (74 - 124) bpm
   BP: 98/64(71) {83/39(47) - 135/94(206)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,061 mL
                                                                    503 mL
   PO:
             TF:
   IVF:
                                                                    826 mL
                                                                    403 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,061 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 480) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 86
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   VBG: 7.38/42/37
   Ve: 8.3 L/min
   PaO2 / FiO2: 534
   Physical Examination
   General: Opens eyes to verbal stimuli, seems anxious, tremulous.
   HEENT: Dry MM, ET tube in place
   CARDIAC: Irregularly irregular rhythm, normal rate, no murmurs
   LUNGS: coarse bilateral breath sounds
   ABDOMEN: distended, + umbilical hernia, NT
   EXTREMITIES: Cool, dry, non-palpable pulses on BL LE, 2+ pulses on BL
   UE
   Labs / Radiology
   209 K/uL
   9.2 g/dL
   225 mg/dL
   2.2 mg/dL
   22 mEq/L
   2.8 mEq/L
   14 mg/dL
   102 mEq/L
   139 mEq/L
   28.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2156-7-3**]  01:55 PM
                             [**2156-7-3**]  03:39 PM
                             [**2156-7-3**]  11:01 PM
                             [**2156-7-4**]  04:54 AM
   WBC
   12.2
   Hct
   30.6
   28.9
   Plt
   209
   Cr
   2.2
   TropT
   1.13
   2.97
   TCO2
   22
   Glucose
   225
   Other labs: PT / PTT / INR:27.1/62.9/2.7, CK / CKMB /
   Troponin-T:376/96/2.97, Fibrinogen:175 mg/dL, Lactic Acid:8.1 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR:
   1. Endotracheal tube extends to the carina, and slightly into the right
   main
   stem bronchus; recommend retraction by 4-5 cm.
   2. Large left pleural effusion with associated atelectasis.
   3. Likely small right pleural effusion.
   Microbiology: Blood culture [**7-3**]: NGTD
   Assessment and Plan
   Ms [**Known lastname 4091**] is a 72F with a PMH s/f ESRD, congestive hepatopathy with
   hepatic failure, and afib/aflutter on digoxin who was found
   unresponsive today at her NH, with a new junctional bradycardic rhythm,
   hypotension, hypothermia, elevated lactate, and coagulopathy.
   #. Hypotension:  Patient ruled in for MI with enzymes.  Presence of
   junctional rhythm and hypotension raises suspicion for an inferior MI.
   Hypothermia points to a possible infectious cause, however, elevated
   lactate and coagulopathy are likely secondary to underlying hepatic
   failure.  FDP negative, supporting that this is unlikely DIC.
   -No anticoagulation at this time, given coagulopathy
   -Daily full strength asa
   -F/u cards recs
   -Levophed on to keep MAP >65, using non-invasive cuff as we were unable
   to place an A line
   -Will bolus 500cc NS for dry appearing patient with low BP
   -Right femoral line in place
   -Will cover empirically with vanc/zosyn, despite low suspicion for
   infxn given patient
s low reserve.  Vanc will need to be dosed by
   levels.
   -Follow up cultures- blood, c.diff, and sputum
   -AM cortisol +/- [**Last Name (un) 45**] stim test today
   #. AMS: The patient was found down at the NH with hypotension and
   bradycardia.  Could have been reduced cerebral perfusion in the setting
   of hypotension or bradycardia, vs hypoglycemic seizure
   -Treat shock as indicated above
   -Will monitor q2H fingersticks and administer D10 gtt
   #. Respiratory failure: Intubated for airway protection.
   -Check a VBG this AM to evaluate current ventilation/oxygenation and
   adjust prn
   -Attempt to wean sedation and vent settings to extubate as soon as
   possible
   #. Coagulopathy: elevated PT, PTT, INR, decreased fibrinogen.  FDP
   normal, likely secondary to hepatic failure rather than DIC
   -Can give FFP and vitamin K for any active bleeds
   #. Rhythm abnormalities: Initial presenting rhythm junctional
   bradycardia, ?digoxin toxicity s/p digibind in the ED, also may be
   secondary to MI.
   -Monitor on telemetry
   -F/u cards recs, will discontinue amiodarone and digoxin
   -Holding metoprolol for hypotension, will add it back once her pressure
   is stable.
   #. Hypoglycemia: chronic and secondary to underlying hepatic failure
   -q2H fingersticks
   -D10 drip
   #. Anemia: PMH GAVE, HCT 21 on admission, s/p one unit of pRBCs with
   current HCT 28.9, and back to her baseline
   -We can guaiac all stools
   -active type and cross
   #. ESRD: On HD MWF
   -Will alert neprhology of the admission
   #. Seizure disorder
   -Continue home keppra
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Comments: Hypoglycemic
   Lines:
   Multi Lumen - [**2156-7-3**] 01:56 PM
   18 Gauge - [**2156-7-3**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 72 yr old woman with ESRD, severe right sided
   heart failure and congestive hepatopathy,
   found hypotensive and bradycardic at NH, intubated and transferred with
   pressor requiring shock.
   Overnight events:
   Cardiac Enzymes rising with trop 1.12, cardiology [**Hospital **] medical
   management
   Tx 1 U PRBC
   Increasing levophed requirement
   Tm 97.7 HR 80 80-130/30-60   AC 350 x 14/ PEEP 5, FIo2 60 7.38/42/37
   VBG. Now on PSV
   Awake, responsive to commands, mildly agitated, [**Month (only) 38**] SB no wheezes,
   irreg irreg soft distended belly + BS no edema
   wbc 12.2 hct 28.9 post tx  K still 2.8 FS 225 Fibrinogen 175  Pt 27.1,
   PTT 62.9, inr 2.7
   ck 376 (down from 408) trop 1.13 to 2.97
   ecg:  afib at 90
   Meds : ASA, chlorhex, Norepi, Famotidine, Keppra,
   Plan: As per housestaff notes but would add
   Hypotension: etiology still unclear whether primary cardiac event with
   hypotensive bradycardic arrest versus sepsis that led to cardiac
   compromise.
        In terms of sepsis: will Rx with Vanco, Zosyn, follow up cultures
   - add on LFTs as she had rising bili at          discharge last time
   but common bile duct stable on admit CT, send stool culture
        Regarding cardiac event: Appreciate cardiology input, continue
   medical management
        Adrenal Insuuficiency: certainly a possibility with low K and
   chronic illness - check cortisol, give   empiric stress dose steroids.
   Resp Failure: due to poor mental status. Able to switch to PSV. Will
   SBT and potential for extubation this afternoon.
   Anemia: likely due to chronic GI blood loss, responded to transfusion
   Renal: alert team - possible HD tommorow
   Access: right groin line
 will try to for PIVs
   Social: try for family meeting today/tomorrow
   Critically ill: 55 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2156-7-4**] 12:34 ------

2156-07-05 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-7-4**] 03:31 PM
   - Hypotensive yesterday morning; continued on Levophed but briefly
   started on Neosynephrine
   - Difficult to obtain cuff pressures
   - Family meeting: Do not want escalation of care; no tubes, no lines,
   code status changed to DNR/DNI
   - Patient extubated with no difficulties
   - Neo weaned off
   - Checking blood pressures Q2H
   - Started on Hydrocortisone 50mg IV Q6
   - Started on D10 gtt for hypoglycemia
   Allergies:
   Aspirin
   Unknown;
   Aleve (Oral) (Naproxen Sodium)
   swelling of her
   Codeine
   Unknown;
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-7-3**] 02:30 PM
   Piperacillin - [**2156-7-4**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-7-5**] 04:00 AM
   Infusions:
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2156-7-4**] 01:59 PM
   Famotidine (Pepcid) - [**2156-7-4**] 04:31 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged
   Flowsheet Data as of  [**2156-7-5**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 77 (74 - 84) bpm
   BP: 102/48(60) {50/14(25) - 138/111(117)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,903 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  2,758 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,903 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 345 (287 - 480) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///16/
   Ve: 8.3 L/min
   Physical Examination
   Gen: alert, able to answer simple commands
   HEENT: Dry mucous membranes
   Heart: irregularly irregular rhythm, no murmurs audible
   Lungs: CTAB anteriorly
   Abdomen: Distended abdomen with an umbilical hernia, NABS, NTND
   Extremities: cachectic, cool, with non-palpable pulses
   Labs / Radiology
   182 K/uL
   8.3 g/dL
   169 mg/dL
   2.9 mg/dL
   16 mEq/L
   3.6 mEq/L
   19 mg/dL
   100 mEq/L
   135 mEq/L
   25.9 %
   11.7 K/uL
        [image002.jpg]
                             [**2156-7-3**]  01:55 PM
                             [**2156-7-3**]  03:39 PM
                             [**2156-7-3**]  11:01 PM
                             [**2156-7-4**]  04:54 AM
                             [**2156-7-4**]  05:27 PM
                             [**2156-7-5**]  05:38 AM
   WBC
   12.2
   11.7
   Hct
   30.6
   28.9
   25.9
   Plt
   209
   182
   Cr
   2.2
   2.9
   TropT
   1.13
   2.97
   2.93
   TCO2
   22
   Glucose
   225
   169
   Other labs: PT / PTT / INR:27.1/62.9/2.7, CK / CKMB /
   Troponin-T:230/48/2.93, ALT / AST:40/188, Alk Phos / T Bili:159/11.8,
   Fibrinogen:175 mg/dL, Lactic Acid:8.1 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:3.5 mg/dL
   Imaging: None
   Microbiology: [**7-3**] Blood culture: Pending
   Assessment and Plan
   Ms [**Known lastname 4091**] is a 72F with a PMH s/f ESRD, congestive hepatopathy with
   hepatic failure, and afib/aflutter on digoxin who was found
   unresponsive today at her NH, with a new junctional bradycardic rhythm,
   hypotension, hypothermia, elevated lactate, and coagulopathy.
   #. Hypotension:  Patient ruled in for MI with enzymes.  Presence of
   junctional rhythm and hypotension raises suspicion for an inferior MI.
   Hypothermia points to a possible infectious cause, however, elevated
   lactate and coagulopathy are likely secondary to underlying hepatic
   failure.  FDP negative, supporting that this is unlikely DIC.   AM
   cortisol in the thirties, so unlikely adrenal insufficiency.
   -No anticoagulation at this time, given coagulopathy
   -Daily full strength asa
   -F/u cards recs
   -Levophed on to keep MAP >65, using non-invasive cuff as we were unable
   to place an A line
   -Right femoral line in place
   -Will cover empirically with vanc/zosyn, despite low suspicion for
   infxn given patient
s low reserve.  Vanc will need to be dosed by
   levels.
   -Follow up cultures- blood, c.diff, and sputum
   #. AMS: The patient was found down at the NH with hypotension and
   bradycardia.  Could have been reduced cerebral perfusion in the setting
   of hypotension or bradycardia, vs hypoglycemic seizure
   -Treat shock as indicated above
   -Will monitor q2H fingersticks and administer D10 gtt
   #. Coagulopathy: elevated PT, PTT, INR, decreased fibrinogen.  FDP
   normal, likely secondary to hepatic failure rather than DIC
   -Can give FFP and vitamin K for any active bleeds
   #. Rhythm abnormalities: Initial presenting rhythm junctional
   bradycardia, ?digoxin toxicity s/p digibind in the ED, also may be
   secondary to MI.
   -Monitor on telemetry
   -F/u cards recs, will discontinue amiodarone and digoxin
   #. Hypoglycemia: chronic and secondary to underlying hepatic failure
   -q2H fingersticks
   -D10 drip
   #. Anemia: PMH GAVE, HCT 21 on admission, s/p one unit of pRBCs with
   appropriate bump, and back to her baseline
   -We can guaiac all stools
   -active type and cross
   #. ESRD: On HD MWF
   -Nephrology aware of the admission
   #. Seizure disorder
   -Continue home keppra
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  Hypoglycemic
   Lines:
   Multi Lumen - [**2156-7-3**] 01:56 PM
   18 Gauge - [**2156-7-3**] 02:00 PM
   Prophylaxis:
   DVT: Coagulopathic
   Stress ulcer: Famotidine
   Communication:  Comments:  Family meeting today to discuss goals of
   care
   Code status: DNR/DNI, no escalation of care
   Disposition: MICU

2156-07-06 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting held; no change in plan for now:
   -- No escalation of care (no new pressors, lines or procedures)
   Allergies:
   Aspirin
   Unknown;
   Aleve (Oral) (Naproxen Sodium)
   swelling of her
   Codeine
   Unknown;
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2156-7-3**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-7-5**] 12:00 PM
   Piperacillin - [**2156-7-6**] 12:07 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2156-7-5**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-7-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 80 (70 - 81) bpm
   BP: 90/45(55) {80/34(48) - 103/61(72)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,810 mL
                                                                    518 mL
   PO:
             TF:
   IVF:
                                                                  1,810 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,810 mL
                                                                    518 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Gen: alert, able to answer simple commands
   HEENT: Dry mucous membranes
   Heart: irregularly irregular rhythm, no murmurs audible
   Lungs: CTAB anteriorly
   Abdomen: Distended abdomen with an umbilical hernia, NABS, NTND
   Extremities: cachectic, cool, with non-palpable pulses
   Labs / Radiology
   167 K/uL
   8.2 g/dL
   136 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.4 mEq/L
   26 mg/dL
   98 mEq/L
   133 mEq/L
   26.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2156-7-3**]  01:55 PM
                             [**2156-7-3**]  03:39 PM
                             [**2156-7-3**]  11:01 PM
                             [**2156-7-4**]  04:54 AM
                             [**2156-7-4**]  05:27 PM
                             [**2156-7-5**]  05:38 AM
                             [**2156-7-6**]  04:38 AM
   WBC
   12.2
   11.7
   11.3
   Hct
   30.6
   28.9
   25.9
   26.0
   Plt
   [**Telephone/Fax (3) 4195**]
   Cr
   2.2
   2.9
   3.0
   TropT
   1.13
   2.97
   2.93
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 4196**]
   Other labs: PT / PTT / INR:44.7/67.6/5.0, CK / CKMB /
   Troponin-T:230/48/2.93, ALT / AST:40/188, Alk Phos / T Bili:159/11.8,
   Fibrinogen:175 mg/dL, Lactic Acid:8.1 mmol/L, Ca++:8.6 mg/dL, Mg++:1.7
   mg/dL, PO4:5.0 mg/dL
   Microbiology: [**2156-7-3**] 12:25 pm BLOOD CULTURE      LINE: FEMORAL #2.
   Blood Culture, Routine (Pending)
   Assessment and Plan
   Ms [**Known lastname 4091**] is a 72F with a PMH s/f ESRD, congestive hepatopathy with
   hepatic failure, and afib/aflutter on digoxin who was found
   unresponsive today at her NH, with a new junctional bradycardic rhythm,
   hypotension, hypothermia, elevated lactate, and coagulopathy.
   #. Goals of Care: Family meeting held yesterday, with emphasis on
   comfort and minimizing painful procedures
   n        No new lines
   n        No escalation of care
   n        DNR/DNI
   #. Hypotension:  No clear source of infection at this time to suggest
   sepsis. Troponin leak mild, unlikely to represent new event leading to
   cardiogenic shock.
   -- No anticoagulation at this time, given worsening coagulopathy
   -- Daily full strength asa
   -- Levophed on for now, will not restart once weaned.
   -- Right femoral line in place
   -- Contineu to cover empirically with vanc/zosyn, despite low suspicion
   for infxn given patient
s low reserve.  Vanc will need to be dosed by
   levels.
   -Follow up cultures- blood, c.diff, and sputum
   #. AMS: The patient was found down at the NH with hypotension and
   bradycardia.  Could have been reduced cerebral perfusion in the setting
   of hypotension or bradycardia, vs hypoglycemic seizure
   -Treat shock as indicated above
   -Will monitor q2H fingersticks and administer D10 gtt
   #. Coagulopathy: Worsening INR, suggesting fulminant hepatic failure.
   #. Rhythm abnormalities: Initial presenting rhythm junctional
   bradycardia,  ddx of digoxin toxicity vs IMI.
   -- s/p digibind in the ED
   -- Monitor on telemetry
   -- F/u cards recs, will discontinue amiodarone and digoxin
   #. Hypoglycemia: chronic and secondary to underlying hepatic failure
   -q2H fingersticks
   -D10 drip
   #. Anemia: PMH GAVE, HCT 21 on admission, s/p one unit of pRBCs with
   appropriate bump, and back to her baseline
   -- Would hold off on tranfusions
   #. ESRD: On HD MWF
   -- Patient too unstable for HD now, also without significant uremia or
   electrolyte abnormality.
   #. Seizure disorder
   -- Continue home keppra
   ICU Care
   Nutrition: NPO for now, would advance diet as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-7-3**] 01:56 PM
   18 Gauge - [**2156-7-3**] 02:00 PM
   Prophylaxis:
   DVT: Coagulopathic
   Stress ulcer: H2 blocker
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:ICU

2156-07-07 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pressors stopped.  Zosyn dc'd.  Pt getting morphine PRN.
   Family at bedside throughout day.
   Allergies:
   Aspirin
   Unknown;
   Aleve (Oral) (Naproxen Sodium)
   swelling of her
   Codeine
   Unknown;
   Depakote (Oral) (Divalproex Sodium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-7-5**] 12:00 PM
   Piperacillin - [**2156-7-6**] 12:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-7-7**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.3
   HR: 84 (75 - 104) bpm
   BP: 68/36(44) {68/36(44) - 117/57(68)} mmHg
   RR: 8 (5 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    996 mL
                                                                     86 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                    976 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                     86 mL
   Respiratory support
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   8.2 g/dL
   136 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.4 mEq/L
   26 mg/dL
   98 mEq/L
   133 mEq/L
   26.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2156-7-3**]  01:55 PM
                             [**2156-7-3**]  03:39 PM
                             [**2156-7-3**]  11:01 PM
                             [**2156-7-4**]  04:54 AM
                             [**2156-7-4**]  05:27 PM
                             [**2156-7-5**]  05:38 AM
                             [**2156-7-6**]  04:38 AM
   WBC
   12.2
   11.7
   11.3
   Hct
   30.6
   28.9
   25.9
   26.0
   Plt
   [**Telephone/Fax (3) 4195**]
   Cr
   2.2
   2.9
   3.0
   TropT
   1.13
   2.97
   2.93
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 4196**]
   Other labs: PT / PTT / INR:44.7/67.6/5.0, CK / CKMB /
   Troponin-T:230/48/2.93, ALT / AST:40/188, Alk Phos / T Bili:159/11.8,
   Fibrinogen:175 mg/dL, Lactic Acid:8.1 mmol/L, Ca++:8.6 mg/dL, Mg++:1.7
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   Ms [**Known lastname 4091**] is a 72F with a PMH s/f ESRD, congestive hepatopathy with
   hepatic failure, and afib/aflutter on digoxin who was found
   unresponsive today at her NH, with a new junctional bradycardic rhythm,
   hypotension, hypothermia, elevated lactate, and coagulopathy.
   #. Goals of Care: Family meeting held yesterday, with emphasis on
   comfort and minimizing painful procedures
   n        No new lines
   n        No escalation of care
   n        DNR/DNI
   n        Pain control with PRN IV Morphine
   #. Hypotension:  No clear source of infection at this time to suggest
   sepsis. Troponin leak mild, unlikely to represent new event leading to
   cardiogenic shock.
   -- No anticoagulation at this time, given worsening coagulopathy
   -- Daily full strength asa
   -- Levophed on for now, will not restart once weaned.
   -- Right femoral line in place
   -- D/C vanc/zosyn, given low suspicion for infection.
   -- F/U cultures
   #. AMS: The patient was found down at the NH with hypotension and
   bradycardia.  Could have been reduced cerebral perfusion in the setting
   of hypotension or bradycardia, vs hypoglycemic seizure
   -Treat shock as indicated above
   -Will monitor q2H fingersticks and administer D10 gtt
   #. Coagulopathy: Worsening INR, suggesting fulminant hepatic failure.
   #. Rhythm abnormalities: Initial presenting rhythm junctional
   bradycardia,  ddx of digoxin toxicity vs IMI.
   -- s/p digibind in the ED
   -- Monitor on telemetry
   -- F/u cards recs, will discontinue amiodarone and digoxin
   #. Hypoglycemia: chronic and secondary to underlying hepatic failure
   -q2H fingersticks
   -D10 drip
   #. Anemia: PMH GAVE, HCT 21 on admission, s/p one unit of pRBCs with
   appropriate bump, and back to her baseline
   -- Would hold off on tranfusions
   #. ESRD: On HD MWF
   -- Patient too unstable for HD now, also without significant uremia or
   electrolyte abnormality.
   #. Seizure disorder
   -- Continue home keppra
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-7-3**] 01:56 PM
   18 Gauge - [**2156-7-3**] 01:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: